US07820691B2
Preparation of 10-fluoro-3,3,6-trimethyl-2,3,4,7-tetrahydroindolo[2,3-c]quinolin-1-one
Utilizing the procedures described in Example 3 a-c except substituting 2-(5-fluoro-1H-indol-3-yl)-5,5-dimethylcyclohexane-1,3-dione for 2-(6-fluoro-1H-indol-3-yl)-5,5-dimethylcyclohexane-1,3-dione in step 3a, and 2-amino-5-fluorobenzoic acid for anthranilic acid in step 1a of Example 1, the title compound was prepared and crystallized from toluene; m.p. 229-230° C.

reactant | 2-(6-fluoro-1H-indol-3-yl)-5,5-dimethylcyclohexane-1,3-dione | FC1=CC=C2C(=CNC2=C1)C1C(CC(CC1=O)(C)C)=O | C16H16FNO2
reactant | 2-amino-5-fluorobenzoic acid | NC1=C(C(=O)O)C=C(C=C1)F | C7H6FNO2
reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
product | 10-fluoro-3,3,6-trimethyl-2,3,4,7-tetrahydroindolo[2,3-c]quinolin-1-one | FC1=CC2=C(C=C1)NC=1C(=NC=3CC(CC(C3C12)=O)(C)C)C | C18H17FN2O
